US07425634B2
(51d) 3-ethyl-2-methylpyridine1-oxide
First, 3-ethyl-2-methylpyridine (7.25 g, 59.8 mmol) was dissolved in dichloromethane (dehydrated)(100 ml) and 3-chloroperbenzoic acid (19.0 g, 71.6 mmol, as the content was regarded as 65%) was added in a nitrogen atmosphere at ice-cooling temperature. The mixture was stirred at room temperature for 90 hours. To the reaction mixture, a saturated aqueous sodium hydrogen carbonate solution was added. The aqueous layer was extracted twice with dichloromethane and three times with chloroform. The organic layers were combined, dried over anhydrous magnesium sulfate, filtrated and concentrated. The residue was purified by silica gel column chromatography (silica gel: 100 g, elution solvent: heptane, ethyl acetate/methanol=10/1) to obtain the title compound (7.35 g, yield: 89.6%) as a reddish solid.

reactant | 3-ethyl-2-methylpyridine | 59.8 mmol, 7.25 g | C(C)C=1C(=NC=CC1)C | C8H11N
reactant | 3-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3-ethyl-2-methylpyridine1-oxide | 7.35 g, yield: 89.6% | C(C)C=1C(=[N+](C=CC1)[O-])C | C8H11NO
